US07868002B2
To a solution of methyl-(4-oxo-cyclohexyl)-carbamic acid tert-butyl ester (0.69 g, 3.04 mmol, 1.0 eq.) in THF (25 mL) at −30° C. was added CBr2F2 (1.25 mL, 4.5 eq.) followed slow addition of by P(N(CH3)2)3. The resulting mixture was warmed to room temperature over 0.5 h and Zn was introduced. The resulting mixture was stirred at reflux for 16 h, cooled to room temperature and diluted with Et2O. The organic phase was decanted and the aqueous phase extracted with 2×Et2O. The combined organic phase was washed with saturated CuSO4 solution until it stayed blue, dried over Na2SO4, filtered and concentrated. The residue was purified by chromatography (20% EtOAc-Hexanes) to give (4-difluoromethylene-cyclohexyl)-methyl-carbamic acid tert-butyl ester (475 mg, 60%) as a white solid.

reactant | methyl-(4-oxo-cyclohexyl)-carbamic acid tert-butyl ester | 3.04 mmol, 0.69 g, 1.0 eq. | C(C)(C)(C)OC(N(C1CCC(CC1)=O)C)=O | C12H21NO3
reactant | CBr2F2 | 1.25 mL, 4.5 eq. | C(Br)(Br)(F)F | CBr2F2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
catalyst | Zn | [Zn] | Zn
product | (4-difluoromethylene-cyclohexyl)-methyl-carbamic acid tert-butyl ester | 475 mg, 60% | C(C)(C)(C)OC(N(C)C1CCC(CC1)=C(F)F)=O | C13H21F2NO2
